US05244596
5.40 g (14.3 m mole) of 2-(6-acetoxy-2-naphthoylamino)-4-butylphenol, 0.43 g of p-toluenesulfuric acid monohydrate and 40 ml of O-dichlorobenzene were placed in a 100 ml round-bottom flask, followed by heating and stirring for 30 minutes at 200-203° C. After the reaction, O-dichlorobenzene was distilled off under reduced pressure. To the resultant, 2.00 g (30.3 m mole) of potassium hydroxide and 60 ml of ethanol were added, followed by heating and stirring for 20 minutes at 60° C. After the reaction, the reaction mixture was poured into 600 ml of water. To the reaction mixture, 8 ml of chloric acid was added to precipitate a crystal. The crystal was filtered, washed with water and recrystallized from a mixture solvent of acetoneethanol to obtain 2.18 g of 2-(6-hydroxy-2-naphthyl)-5-butylbenzooxazole (Yield: 42.4%).

reactant | 2-(6-acetoxy-2-naphthoylamino)-4-butylphenol | 5.40 g | C(C)(=O)OC=1C=C2C=CC(=CC2=CC1)C(=O)NC1=C(C=CC(=C1)CCCC)O | C23H23NO4
reactant | O-dichlorobenzene | 40 ml | C1=CC=C(C(=C1)Cl)Cl | C6H4Cl2
reactant | chloric acid | 8 ml | Cl(=O)(=O)O | ClHO3
solvent | water | 600 ml | O | H2O
product | 2-(6-hydroxy-2-naphthyl)-5-butylbenzooxazole | 2.18 g, Yield: 42.4% | OC=1C=C2C=CC(=CC2=CC1)C=1OC2=C(N1)C=C(C=C2)CCCC | C21H19NO2
